US05998665
11.5 g (0.0373 mol) of 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide were treated with 11.5 ml of 25 percent aqueous hydrochloric acid and stirred at 0° C. for 1 hour. The water was evaporated completely and the residue was recrystallized from ethanol/diethyl ether. There were obtained 11.8 g (89%) of 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride (1:1.8) as pale yellow crystals; m.p. 175-250° C. (dec.).

reactant | 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.0373 mol, 11.5 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC)NC | C12H16N6O2S
reactant | hydrochloric acid | 11.5 ml | Cl | ClH
product | 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride | 11.8 g, 89% | Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC)NC | InChI=1S/C12H16N6O2S.ClH/c1-14-10-7-11(17-12(15-2)16-10)18-21(19,20)9-5-3-8(13)4-6-9;/h3-7H,13H2,1-2H3,(H3,14,15,16,17,18);1H
